US05686065
m-Toluylchloride was mixed with diethoxyamine and dicyclohexylamine in a ratio of 1:1:1 and refluxed for 24 hours in tetrahydrofuran. The product, N,N-diethoxy-m-toluamide, was obtained in a 30% yield, and the product and ethyltriethoxysilane were each dissolved in an amount of 10% by weight in a 50/50 mixture of ethanol/cyclomethicone.

reactant | m-Toluylchloride | C1(=CC(=CC=C1)Cl)C | C7H7Cl
reactant | diethoxyamine | C(C)ONOCC | C4H11NO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-diethoxy-m-toluamide | 30% yield | C(C)ON(C(=O)C=1C=C(C=CC1)C)OCC | C12H17NO3
